US07772227B2
To a solution of 2-chloroquinoline (8.2 g, 50 mmol) and [1,2-bis(diphenylphosphino)-ethane]dichloronickel(II) (200 mg, 0.38 mmol) in diethyl ether (20 ml) cooled in a ice/methanol bath was added cyclopentylmagnesium bromide (2 M solution in diethyl ether; 25.5 ml, 51 mmol) over a period of 15 minutes. The resulting brown solution was then stirred for 30 minutes, the ice bath removed and the mixture stirred for a further 10 minutes. The reaction mixture was then re-cooled to 0° C. and a saturated ammonium chloride solution (40 ml) added slowly. The resulting reaction mixture was poured into a separating funnel and further diluted with diethyl ether (60 ml) and saturated ammonium chloride solution (60 ml). The organics were separated and the aqueous layer washed with diethyl ether (2×100 ml). The combined organics were dried (MgSO4), filtered and the solvent removed in vacuo to leave 2-cyclopentylquinoline (9.98 g, 50.4 mmol) as an oil.

reactant | 2-chloroquinoline | 50 mmol, 8.2 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | cyclopentylmagnesium bromide | 51 mmol, 2 M, 25.5 ml | C1(CCCC1)[Mg]Br
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | ammonium chloride | 60 ml | [Cl-].[NH4+]
catalyst | [1,2-bis(diphenylphosphino)-ethane]dichloronickel(II) | 0.38 mmol, 200 mg | C1=CC=C(C=C1)P(CCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.Cl[Ni]Cl
product | 2-cyclopentylquinoline | 50.4 mmol, 9.98 g | C1(CCCC1)C1=NC2=CC=CC=C2C=C1 | C14H15N
